US04011333
5-Octadecyloxy-2-thiophenecarboxylic acid
When in Example 3, 1-bromooctadecane is substituted for 1-bromohexadecane, 2-octadecyloxythiophene is obtained. A mixture of 35.3 g (0.1 mole) of 2-octadecyloxythiophene and 12.3 g (0.12 mole) of acetic anhydride is cooled in an ice bath. While rapidly stirring this mixture, 1.4 g of boron trifluoride etherate is added, and the mixture is heated to 100° C with stirring for 1 hour after which it is cooled to room temperature. Ice water is added, and the mixture is extracted with chloroform. The chloroform solution is evaporated to dryness under reduce pressure to give 2-acetyl-5-octadecyloxythiophene. In 500 ml of 10% aqueous potassium hydroxide 2-acetyl-5-octadecyloxythiophene is combined with 35.0 g (0.6 mole) of lithium hypochlorite. The mixture is stirred vigorously on a steam bath overnight, then allowed to cool to room temperature and extracted with ether. The aqueous extract is acidified with hydrochloric acid to precipitate 5-octadecyloxy-2-thiophenecarboxylic acid

reactant | lithium hypochlorite | 0.6 mole, 35.0 g | Cl[O-].[Li+]
reactant | potassium hydroxide 2-acetyl-5-octadecyloxythiophene | 500 ml | C(C)(=O)C=1SC(=CC1)OCCCCCCCCCCCCCCCCCC.[OH-].[K+]
product | 5-Octadecyloxy-2-thiophenecarboxylic acid | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(S1)C(=O)O | C23H40O3S
